US06642227B2
4-(3-Dimethylamino-acryloyl)-3-methyl-5-methylsulfanyl-thiophene-2-carbonitrile
To a solution of 4-acetyl-3-methyl-5-methylsulfanyl-thiophene-2-carbonitrile (10 mmol) in acetonitrile (5 mL) was added DMF-DMA (2 mL) and the resulting mixture heated at reflux for 18 hours. The reaction was concentrated and the residue triturated with diethyl ether (20 mL). The suspension was filtered and washed with ether to afford the desired product as a yellow solid.

reactant | 4-acetyl-3-methyl-5-methylsulfanyl-thiophene-2-carbonitrile | 10 mmol | C(C)(=O)C=1C(=C(SC1SC)C#N)C | C9H9NOS2
reactant | DMF-DMA | 2 mL | CN(C)C(OC)OC | C5H13NO2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-(3-Dimethylamino-acryloyl)-3-methyl-5-methylsulfanyl-thiophene-2-carbonitrile | CN(C=CC(=O)C=1C(=C(SC1SC)C#N)C)C | C12H14N2OS2
